US09328118B2
Tin (II) chloride dihydrate (2.0 g) was added to a solution of 2,6-dichloro-N-methyl-5-nitropyrimidine-4-amine (680 mg) in EtOH (13 mL) at room temperature. The mixture was stirred at room temperature for 3 hours, and stirred at 90° C. for 2 hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. EtOAc and a saturated aqueous NaHCO3 solution were added to the residue, and the insoluble material was separated by filtration using Celite. Extraction was performed on the filtrate using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=80:20 to 50:50), whereby 2,6-dichloro-N4-methylpyrimidine-4,5-diamine (482 mg) was obtained as a pale yellow solid.

reactant | Tin (II) chloride dihydrate | 2.0 g | O.O.[Sn](Cl)Cl
reactant | 2,6-dichloro-N-methyl-5-nitropyrimidine-4-amine | 680 mg | ClC1=NC(=C(C(=N1)NC)[N+](=O)[O-])Cl | C5H4Cl2N4O2
solvent | EtOH | 13 mL | CCO | C2H6O
product | 2,6-dichloro-N4-methylpyrimidine-4,5-diamine | 482 mg | ClC1=NC(=C(C(=N1)NC)N)Cl | C5H6Cl2N4
